US08445679B2
tert-butyl 4-bromo-3-methylbenzoate
To a mixture of methyl 4-bromo-3-methylbenzoate (4.85 g) and tert-butyl acetate (3 mL) was added 1M potassium tert-butoxide in THF (0.3 mL). The mixture was stirred under vacuum for 10 minutes and treated with another equivalent of tert-butyl acetate and 1 mol % of (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) dichloromethane. This procedure was repeated three times. The mixture was diluted with ethyl acetate (40 mL) and washed with 5% aqueous HCl, water and brine. After drying over Na2SO4, the mixture was concentrated.

reactant | methyl 4-bromo-3-methylbenzoate | 4.85 g | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | tert-butyl acetate | 3 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | potassium tert-butoxide | 1M | CC(C)([O-])C.[K+]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-bromo-3-methylbenzoate | BrC1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C12H15BrO2
